US08349865B2
Step 2: 6-{[2,6-Dichloro-4-(1H-pyrazol-5-yl)phenyl]amino}pyrido[4,3-c]-1,6-naphthyridin-10(9H)-one
To a solution of N-(2,6-dichloro-4-iodophenyl)-10-ethoxypyrido[4,3-c]-1,6-naphthyridin-6-amine (200 mg, 0.40 mmol) were added 1H-pyrazol-5-ylboronic acid (48 mg, 0.43 mmol) 2.0 M solution of NaHCO3 (1 mL) and tetrakis(triphenylphosphine)palladium (0) (90 mg, 0.78 mmol) and the mixture was heated to 80° C. for 4 hr. After cooling to room temperature, the reaction mixture was extracted with EtOAc and water. Column chromatography (100% Hex to 100% EtOAc) afforded the cross-coupled product. This purified material (79 mg) was taken up in chloroform (5 mL) followed by the addition of BBr3 (1.40 mL, 1M in CH2Cl2) and heated to 85° C. for 1 hr. The solution was cooled to room temperature, extracted with 3:1 CHCl3/IPrOH and washed with saturated NaHCO3. The organic layers were dried with MgSO4, filtered, and concentrated under reduced pressure. Purification by column chromatography (100% CH2Cl2 to 35% MeOH/65% CH2Cl2) afforded the title compound as a mixture of rotamers.

reactant | N-(2,6-dichloro-4-iodophenyl)-10-ethoxypyrido[4,3-c]-1,6-naphthyridin-6-amine | 0.40 mmol, 200 mg | ClC1=C(C(=CC(=C1)I)Cl)NC1=NC2=CC=NC=C2C2=C1C=CN=C2OCC | C19H13Cl2IN4O
reactant | 1H-pyrazol-5-ylboronic acid | 0.43 mmol, 2.0 M, 48 mg | N1N=CC=C1B(O)O | C3H5BN2O2
reactant | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
reactant | BBr3 | 1M, 1.40 mL | B(Br)(Br)Br | BBr3
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakis(triphenylphosphine)palladium | 0.78 mmol, 90 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-{[2,6-Dichloro-4-(1H-pyrazol-5-yl)phenyl]amino}pyrido[4,3-c]-1,6-naphthyridin-10(9H)-one | ClC1=C(C(=CC(=C1)C1=CC=NN1)Cl)NC1=NC2=CC=NC=C2C2=C1C=CNC2=O | C20H12Cl2N6O
